US06300372B1
Preparation of 5-(3-cyclopentyloxy-4-methoxyphenyl)cyclohex-1-ene-1,5-dicarbonitrile
A suspension of 3-cyano-3-(cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one (0.63 g, 2.0 mmol), 18-crown-6 (0.006 g, 0.1 mmol) and potassium cyanide (0.006 g, 0.1 mmol) in dry toluene (2 mL) at room temperature under an argon atmosphere was treated dropwise with trimethylsilyl cyanide (0.32 mL, 2.4 mmol) and the mixture was stirred for 2.5 h. Pyridine (4 mL) and phosphorous oxychloride (0.5 mL, 5.0 mmol) were added, and the solution was refluxed for 40 h. After quenching with ice, the reaction was extracted three times with methylene chloride, the extract was washed with sodium bicarbonate, 10% hydrochloric acid and water, was dried (magnesium sulfate) and the solvent was evaporated. Purification by flash chromatography, eluting with 1:4 ethyl acetate/hexanes, provided a pale yellow oil (0.3 g, 42%). Anal. (C20H22N2O2.3/8H2O) calcd: C, 72.98; H, 6.97; N, 8.51; found: C, 72.85; H, 6.80; N, 8.56; Rf=0.13 (4:1 hexanes/ethyl acetate).

reactant | 3-cyano-3-(cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one | 2.0 mmol, 0.63 g | C(#N)C1(CC(CCC1)=O)C1=C(C=C(C=C1)OC)OC1CCCC1 | C19H23NO3
reactant | 18-crown-6 | 0.1 mmol, 0.006 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium cyanide | 0.1 mmol, 0.006 g | [C-]#N.[K+]
reactant | trimethylsilyl cyanide | 2.4 mmol, 0.32 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | phosphorous oxychloride | 5.0 mmol, 0.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | Pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | 5-(3-cyclopentyloxy-4-methoxyphenyl)cyclohex-1-ene-1,5-dicarbonitrile | 0.3 g, 42% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC=C(C1)C#N)C#N | C20H22N2O2
